US07790747B2
To a solution of dimethyl cyanodithioiminocarbonate (2.85 g, 17.6 mmol) in methanol (20 mL) was added ethylamine (2M soln, 9.7 mL, 19.4 mmol). The solution was allowed to stir at reflux overnight. The solution was cooled to room temperature and the desired product crystallized out of solution over 2 hours. The crystals were collected on a buchner funnel, washed with cold methanol several times, and dried in vacuo to give 1-ethyl-2-methyl-3-cyanoisothiourea as a white solid (1.08 g, 43%). 1H NMR (CDCl3) δ 1.22 (t, 3H, J=6 Hz), 2.61 (s, 3H), 3.35 (s, 1H), 3.46 (q, 2H, J=6 Hz).

reactant | dimethyl cyanodithioiminocarbonate | 17.6 mmol, 2.85 g | CSC(=NC#N)SC | C4H6N2S2
reactant | ethylamine | C(C)N | C2H7N
solvent | methanol | 20 mL | CO | CH4O
product | 1-ethyl-2-methyl-3-cyanoisothiourea | 1.08 g, 43% | C(C)NC(SC)=NC#N | C5H9N3S
